US05441969
2-Amino-1-[3-(2-furyl)-4-methylphenyl]benzimidazole was prepared from 4-(2-amino-1-benzimidazolyl)-2-iodotoluene and 2-trimethylstannylfuran according to method C. mp 155°-157° C.

reactant | 4-(2-amino-1-benzimidazolyl)-2-iodotoluene | NC1=NC2=C(N1C1=CC(=C(C=C1)C)I)C=CC=C2 | C14H12IN3
reactant | 2-trimethylstannylfuran | C[Sn](C=1OC=CC1)(C)C
product | 2-Amino-1-[3-(2-furyl)-4-methylphenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=C(C=C1)C)C=1OC=CC1)C=CC=C2 | C18H15N3O
